US06906072B1
Reference Example 20 3-cyano-3-(2-thienyl)propanol
Under a nitrogen atmosphere, sodium borohydride (650 mg) was added in an ice bath to a DMF solution (25 ml) of thiophene-2-acetonitrile (1 g) and (3-bromopropoxy)-tert-butyldimethylsilane (2.06 g). After 20 minutes, the organic layer was separated by adding an aqueous saturated ammonium chloride and ethyl acetate were added thereto. The resulting organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. After filtering off the drying agent, the mixture was evaporated. The resulting residue was dissolved in acetonitrile (20 mL), a 1 M tetrabutylammonium fluoride/tetrahydrofuran solution (9.7 ml) was added thereto, and the mixture was stirred at a room temperature. After 18 hours, the organic layer was separated by adding water and ethyl acetate. The resulting organic layer was rinsed with water and brine, and dried over magnesium sulfate. After filtering off the drying agent, the mixture was evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate system), to give the title compound as a red oil (637 mg, 43%). 1H-NMR (400 MHz, CDCl3) δ 2.08-2.16 (m, 1H), 3.08 (t, J=7.0 Hz, 2H), 3.75 (t, J=7.0 Hz, 2H), 4.15-4.20 (m, 1H), 7.14 (dd, J=3.8 Hz, 4.8 Hz, 1H), 7.65 (dd, J=0.8 Hz, 4.8 Hz, 1H), 7.75 (dd, J=0.8 Hz, 3.8 Hz, 1H).

reactant | sodium borohydride | 650 mg | [BH4-].[Na+]
reactant | thiophene-2-acetonitrile | 1 g | S1C(=CC=C1)CC#N | C6H5NS
reactant | (3-bromopropoxy)-tert-butyldimethylsilane | 2.06 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 3-cyano-3-(2-thienyl)propanol | 637 mg, 43% | C(#N)C(CCO)C=1SC=CC1 | C8H9NOS
